US07176242B2
(2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-isopropylbenzyl)amino]butan-2-ol dihydrochloride
tert-Butyl (1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-[(3-isopropylbenzyl)amino]propylcarbamate (1.5 g, 3.3 mmol) is dissolved in 4 N hydrochloric acid in dioxane (20 mL), and the reaction is stirred at room temperature 3 h. The mixture is concentrated under reduced pressure to afford the title compound. ESI MS m/z 349.2 [M+H]+.

reactant | tert-Butyl (1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-[(3-isopropylbenzyl)amino]propylcarbamate | 3.3 mmol, 1.5 g | FC=1C=C(C[C@@H]([C@@H](CNCC2=CC(=CC=C2)C(C)C)O)NC(OC(C)(C)C)=O)C=C(C1)F | C25H34F2N2O3
reactant | hydrochloric acid | 4 N | Cl | ClH
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-isopropylbenzyl)amino]butan-2-ol dihydrochloride | Cl.Cl.N[C@H]([C@@H](CNCC1=CC(=CC=C1)C(C)C)O)CC1=CC(=CC(=C1)F)F | InChI=1S/C20H26F2N2O.2ClH/c1-13(2)16-5-3-4-14(6-16)11-24-12-20(25)19(23)9-15-7-17(21)10-18(22)8-15;;/h3-8,10,13,19-20,24-25H,9,11-12,23H2,1-2H3;2*1H/t19-,20+;;/m0../s1
